US08470823B2
Step 1: Phenyl (1-phenyl-1H-pyrazol-5-yl)carbamate (F3)
1-Phenyl-1H-pyrazol-5-amine (1 eq) was dissolved in DCE (0.1M), phenylchloroformate (1.1 eq) was added. The reaction was stirred 1 h, then diluted with DCM and washed with water and brine, dried and concentrated under reduced pressure to afford the product in quantitave yield.

reactant | 1-Phenyl-1H-pyrazol-5-amine | 1 eq | C1(=CC=CC=C1)N1N=CC=C1N | C9H9N3
reactant | phenylchloroformate | 1.1 eq | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | DCE | 0.1M | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Phenyl (1-phenyl-1H-pyrazol-5-yl)carbamate | C1(=CC=CC=C1)N1N=CC=C1NC(OC1=CC=CC=C1)=O | C16H13N3O2
